US07321050B2
Experiment 19. 1-(3,5-Dimethoxy-4-n-tetradecanylphenyl)-2-phenylethene (25B).
This material was prepared from 2-bromo-1,3-dimethoxy-5-(2-phenylethenyl)benzene and 1-bromo-n-tetradecane by the same procedure as described in example 15. 1HNMR (CDCl3, ppm): δ 0.91 (m, 6H), 1.29 (m, 22H), 2.65 (m, 2H), 3.90 (s, 6H), 6.73 (s, 2H), 7.10 (s, 2H), 7.26 (m, 1H), 7.36 (m, 2H), 7.52 (m, 2H).

reactant | 2-bromo-1,3-dimethoxy-5-(2-phenylethenyl)benzene | BrC1=C(C=C(C=C1OC)C=CC1=CC=CC=C1)OC | C16H15BrO2
reactant | 1-bromo-n-tetradecane | BrCCCCCCCCCCCCCC | C14H29Br
product | 1-(3,5-Dimethoxy-4-n-tetradecanylphenyl)-2-phenylethene | COC=1C=C(C=C(C1CCCCCCCCCCCCCC)OC)C=CC1=CC=CC=C1 | C30H44O2
